US07320973B2
(R)-1-Fluoro-5,11-dihydro-5-[1-(4-dimethylaminophenethyl)pyrrolidin-2-ylmethyl]dibenzo[b,e][1,4]oxazepine dihydrochloride
0.5 ml of 4 M hydrogen chloride/dioxane was added to a solution of (R)-1-fluoro-5,11-dihydro-5-[1-(4-dimethylaminophenethyl)pyrrolidin-2-ylmethyl]dibenzo[b,e][1,4]oxazepine in dichloromethane (5 ml), and they were stirred together for 30 minutes. The solvent was evaporated under reduced pressure. The obtained residue was solidified with a mixed solvent of hexane and ethyl acetate. The solid thus precipitated was taken by the filtration to obtain the title compound in the form of a brown solid (170 mg, 64%).

reactant | hydrogen chloride dioxane | 4 M, 0.5 ml | Cl.O1CCOCC1
reactant | (R)-1-fluoro-5,11-dihydro-5-[1-(4-dimethylaminophenethyl)pyrrolidin-2-ylmethyl]dibenzo[b,e][1,4]oxazepine | FC1=CC=CC=2N(C3=C(OCC21)C=CC=C3)C[C@@H]3N(CCC3)CCC3=CC=C(C=C3)N(C)C | C28H32FN3O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (R)-1-Fluoro-5,11-dihydro-5-[1-(4-dimethylaminophenethyl)pyrrolidin-2-ylmethyl]dibenzo[b,e][1,4]oxazepine dihydrochloride | Cl.Cl.FC1=CC=CC=2N(C3=C(OCC21)C=CC=C3)C[C@@H]3N(CCC3)CCC3=CC=C(C=C3)N(C)C | InChI=1S/C28H32FN3O.2ClH/c1-30(2)22-14-12-21(13-15-22)16-18-31-17-6-7-23(31)19-32-26-10-5-8-25(29)24(26)20-33-28-11-4-3-9-27(28)32;;/h3-5,8-15,23H,6-7,16-20H2,1-2H3;2*1H/t23-;;/m1../s1
